US06906121B2
Preparation of N-{4[(benzoyloxy)imino]-2,5-cyclohexadien-1-ylidene}aniline
A solution was prepared by dissolving 4-nitrosodiphenylamine, 25.0 grams, (0.126 mole) and triethylamine, 13.4 grams, (0.132 mole) in 300 mL of toluene. The solution was put in a suitable reaction flask and cooled to 5° C. A solution of benzoyl chloride, 17.7 grams, (0.126 mole), was dissolved in 50 mL of toluene and added slowly to the stirred solution of 4-nitrossodiphenylamine. The materials were allowed to react and the triethylamine hydrochloride precipitate was filtered. The toluene solution was concentrated and the product that crystallized was filtered and dried. The yield was 15.96 grams of product melting at 122-124° C.

reactant | 4-nitrosodiphenylamine | C1=CC=C(C=C1)NC2=CC=C(C=C2)N=O | C12H10N2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | N-{4[(benzoyloxy)imino]-2,5-cyclohexadien-1-ylidene}aniline | C(C1=CC=CC=C1)(=O)ON=C1C=CC(C=C1)=NC1=CC=CC=C1 | C19H14N2O2
